US06972295B2
Step B 1-(1-Methyl-1H-indol-4-yl)acetone
To a solution of 0.852 g (5.14 mmol) of 4-chloro-1-methylindole in 15 mL dry toluene, 0.85 mL (7.73 mmol) isopropenyl acetate and 2.3 mL (8 mmol) tributyltin methoxide were added. The solution was heated to 100° C. After 15 min 0.24 g (0.61 mmol) 2-dicyclohexylphospino-2′-(N,N-dimethylamino)biphenyl and 0.14 g (0.153 mmol) tris(dibenzylidineacetone)dipalladium were added and heating was continued. After 2 h the solution was cooled, filtered through a pad of CELITE diatomaceous earth and the filtrate was concentrated to ca. 5 mL. This solution was purified on a silica column using a gradient of 5-20% EtOAc/hexane to obtain the title compound. 1H NMR: (500 MHz, CDCl3): δ 2.14 (s, 3H), 3.84 (s, 3H), 3.97 (s, 2H), 6.51 (d, 1H), 7-7.3 (m, 4H).

reactant | 4-chloro-1-methylindole | 5.14 mmol, 0.852 g | ClC1=C2C=CN(C2=CC=C1)C | C9H8ClN
reactant | isopropenyl acetate | 7.73 mmol, 0.85 mL | C(C)(=O)OC(=C)C | C5H8O2
reactant | tributyltin methoxide | 8 mmol, 2.3 mL | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | 2-dicyclohexylphospino-2′-(N,N-dimethylamino)biphenyl | 0.61 mmol, 0.24 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(1-Methyl-1H-indol-4-yl)acetone | CN1C=CC2=C(C=CC=C12)CC(=O)C | C12H13NO
